US08871756B2
2-Chloro-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]acetamide
To a solution of 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine (500 mg, 1.4 mmol) in chloroform (10 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.41 mL, 2.8 mmol) followed by chloroacetyl chloride (0.17 mL, 2.1 mmol) at room temperature. The resulting solution was heated with stirring at 70° C. for 2 hours under nitrogen. After being cooled to room temperature, the reaction was diluted with ethyl acetate (50 mL), washed with water (50 mL×3), dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel (eluting with 25% ethyl acetate in petroleum ether) to give 120 mg of the product as an off-white solid.

reactant | 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | 1.4 mmol, 500 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N)C)=O | C19H19N3O2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.8 mmol, 0.41 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | chloroacetyl chloride | 2.1 mmol, 0.17 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]acetamide | 120 mg | ClCC(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C21H20ClN3O3S
